US07399759B2
[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]sulfonylacetic acid
tert-Butyl {[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]sulfonyl}acetate (0.10 g, 0.24 mmol) was dissolved in trifluoroacetic acid (5 ml), and the mixture was stirred f or 0.5 hr. Diisopropyl ether was added to the mixture. The obtained precipitates were recrystallized from ethanol to give the titled compound (0.048 g, 55%) as pale yellow crystals.

reactant | tert-Butyl {[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]sulfonyl}acetate | 0.24 mmol, 0.10 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)S(=O)(=O)CC(=O)OC(C)(C)C | C19H18N2O5S2
reactant | Diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]sulfonylacetic acid | 0.048 g, 55% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)S(=O)(=O)CC(=O)O | C15H10N2O5S2
